US06235731B1
(2-Bromoethyl)benzene (312 mg, 1.68 mmol) was added to a stirred solution of N-[3-(2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride (610 mg, 1.42 mmol), triethylamine (722 mg, 7.13 mmol), sodium iodide (255 mg, 1.70 mmol) and 1,8-diazabicyclo[5.4.0]undecene (438 mg, 2.88 mmol) in acetonitrile (20 ml) at room temperature. After refluxing under nitrogen for 2 days, the reaction mixture was concentrated in vacuo. The residue was dissolved in water and extracted with chloroform. The extract was washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel(20 g) with Ethyl acetate-Methanol (8:1) to give N-[3-[4-(2-phenylethan-1-yl)-2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide as a purple amorphous powder (288 mg, 44%).

reactant | (2-Bromoethyl)benzene | 1.68 mmol, 312 mg | BrCCC1=CC=CC=C1 | C8H9Br
reactant | N-[3-(2-oxopiperazin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 1.42 mmol, 610 mg | Cl.Cl.O=C1N(CCNC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32
reactant | triethylamine | 7.13 mmol, 722 mg | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 1.70 mmol, 255 mg | [I-].[Na+]
reactant | 1,8-diazabicyclo[5.4.0]undecene | 2.88 mmol, 438 mg | N12C=CCCCC2NCCC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[3-[4-(2-phenylethan-1-yl)-2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 288 mg, 44% | C1(=CC=CC=C1)CCN1CC(N(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)=O | C25H27N5O2S
